US03963758
c. Preparation of ethyl 2-[meta-(α-bromo-acetyl)phenyl]propionate
To a cooled vigorously stirred mixture containing ethyl 2-(m-acetyl phenyl)propionate (0.1 mole) dissolved in dry ether (100 ml) and a pinchful of aluminum chloride is added dropwise 0.1 mole bromine.

reactant | ethyl 2-(m-acetyl phenyl)propionate | 0.1 mole | C(C)(=O)C=1C=C(C=CC1)C(C(=O)OCC)C | C13H16O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 0.1 mole | BrBr | Br2
solvent | ether | 100 ml | CCOCC | C4H10O
product | ethyl 2-[meta-(α-bromo-acetyl)phenyl]propionate | BrCC(=O)C=1C=C(C=CC1)C(C(=O)OCC)C | C13H15BrO3
